datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C(C[Se]c1ccccc1)[O-:10].c1cc2c(cc1[NH2+:21][H:20])CCCC2>>O=C(C[Se]c1ccccc1)[O:10][H:20].c1cc2c(cc1[NH2:21])CCCC2 10=20;20,21=21",
"O=C([O-])c1cc([N+](=O)[O-])ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])c1cc([N+](=O)[O-])ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN1C(=O)c2[nH]c[n+:21]([H:20])c2N(C)C1=O.Nc1cc(-c2ccccc2)[n:10]c2ccccc12>>CN1C(=O)c2[nH]c[n:21]c2N(C)C1=O.Nc1cc(-c2ccccc2)[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"CC[N:10]1CCCC1CNC(=O)c1c([O-])cccc1OC.O=C(COc1ccccc1[N+](=O)[O-])[O:21][H:20]>>CC[N+:10]1([H:20])CCCC1CNC(=O)c1c([O-])cccc1OC.O=C(COc1ccccc1[N+](=O)[O-])[O-:21] 10=20;20,21=21",
"C=CC[NH:10]c1ccccc1.C[C@@H]1CC[C@H](C)[C@@H]1C(=O)[O:21][H:20]>>C=CC[NH+:10](c1ccccc1)[H:20].C[C@@H]1CC[C@H](C)[C@@H]1C(=O)[O-:21] 10=20;20,21=21",
"Clc1ccc([O-:10])cc1Cl.c1c(CN2CCNCC[NH+:21]([H:20])CC2)n[nH]c1CN1CCNCCNCC1>>Clc1ccc([O:10][H:20])cc1Cl.c1c(CN2CCNCC[NH:21]CC2)n[nH]c1CN1CCNCCNCC1 10=20;20,21=21",
"CC([NH3+])CCC(=O)[O:21][H:20].CC/C=C/CC1=[NH+]C(C(=O)[O-:10])C2SC(C)(C)C(C(=O)O)N12>>CC([NH3+])CCC(=O)[O-:21].CC/C=C/CC1=[NH+]C(C(=O)[O:10][H:20])C2SC(C)(C)C(C(=O)O)N12 10=20;20,21=21",
"CC(C)(C)[NH:10]C1CCCCC1.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(C)(C)[NH+:10](C1CCCCC1)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CCCC[NH2+]CCC(=O)[O:21][H:20].CCCCc1c([O-])nc(NCC)[n:10]c1C>>CCCC[NH2+]CCC(=O)[O-:21].CCCCc1c([O-])nc(NCC)[n+:10]([H:20])c1C 10=20;20,21=21",
"CCCn1c[n+:21]([H:20])cn1.CN(C)c1ccc(C(O)(c2ccccc2)c2ccc([N:10](C)C)cc2)cc1>>CCCn1c[n:21]cn1.CN(C)c1ccc(C(O)(c2ccccc2)c2ccc([N+:10](C)(C)[H:20])cc2)cc1 10=20;20,21=21",
"CCOC(=O)CC(c1ccccc1)[NH:10]C.N#Cc1ccc(O[C@H]2O[C@@H](C(=O)[O:21][H:20])[C@H](O)[C@@H](O)[C@@H]2O)cc1>>CCOC(=O)CC(c1ccccc1)[NH+:10](C)[H:20].N#Cc1ccc(O[C@H]2O[C@@H](C(=O)[O-:21])[C@H](O)[C@@H](O)[C@@H]2O)cc1 10=20;20,21=21",
"CCNc1cc[nH+]c([S:21][H:20])n1.O=[N+]([O-])c1cccc([O-:10])c1[O-]>>CCNc1cc[nH+]c([S-:21])n1.O=[N+]([O-])c1cccc([O:10][H:20])c1[O-] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=[N+]([O-])c1cccc2c[n+](CCC[NH2:10])ccc12>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=[N+]([O-])c1cccc2c[n+](CCC[NH2+:10][H:20])ccc12 10=20;20,21=21",
"CC(O)C[N:10](CC(C)O)C(C)(C)C.NC(=O)CCCCCCCCC(=O)N[O:21][H:20]>>CC(O)C[N+:10](CC(C)O)(C(C)(C)C)[H:20].NC(=O)CCCCCCCCC(=O)N[O-:21] 10=20;20,21=21",
"CC[NH2+]CC[NH+:21](CC)[H:20].Cc1nnc([N-]S(=O)(=O)c2ccc([O-:10])cc2)s1>>CC[NH2+]CC[NH:21]CC.Cc1nnc([N-]S(=O)(=O)c2ccc([O:10][H:20])cc2)s1 10=20;20,21=21",
"CC1(C)CCC(C2CCC(C)(C)[NH:10]2)N1.CS/C(C)=[NH+:21]/[H:20]>>CC1(C)CCC(C2CCC(C)(C)[NH+:10]2[H:20])N1.CSC(C)=[NH:21] 10=20;20,21=21",
"O=C([O-])C[S-:10].OCCCc1ccc[n+:21]([H:20])c1>>O=C([O-])C[S:10][H:20].OCCCc1ccc[n:21]c1 10=20;20,21=21",
"C[NH+](C)CCC[NH2:10].c1cc2c(c([NH2+:21][H:20])c1)CCCC2>>C[NH+](C)CCC[NH2+:10][H:20].c1cc2c(c([NH2:21])c1)CCCC2 10=20;20,21=21",
"CC1=CC(C)=NC(=[O:10])N1C.Cc1ccc(S(=O)(=O)[N:21](c2ccccc2)[H:20])cc1>>CC1=CC(C)=NC(=[O+:10][H:20])N1C.Cc1ccc(S(=O)(=O)[N-:21]c2ccccc2)cc1 10=20;20,21=21",
"C1CNC[NH+:21]([H:20])C1.N#CC(C#N)=N[N-:10]c1cccc(O)c1>>C1CNC[NH:21]C1.N#CC(C#N)=N[N:10](c1cccc(O)c1)[H:20] 10=20;20,21=21",
"CCCC[P+:21](CCCC)(CCCC)[H:20].O=C(C1c2ccccc2-c2ccccc21)[O-:10]>>CCCC[P:21](CCCC)CCCC.O=C(C1c2ccccc2-c2ccccc21)[O:10][H:20] 10=20;20,21=21",
"Cc1cccc(C)c1[NH:10]C.Oc1cc(O)cc([O:21][H:20])c1>>Cc1cccc(C)c1[NH+:10](C)[H:20].Oc1cc(O)cc([O-:21])c1 10=20;20,21=21",
"CCCCCCCCCCCCCCCC[N:10](CC(C)O)CC(C)O.O=C(C1CC1(Br)Br)[O:21][H:20]>>CCCCCCCCCCCCCCCC[N+:10](CC(C)O)(CC(C)O)[H:20].O=C(C1CC1(Br)Br)[O-:21] 10=20;20,21=21",
"C[C@@H]1CCC[C@H](C)[N:10]1C.Cc1ccccc1/C(=N\CCC[N+:21](C)(C)[H:20])c1ccccc1N>>C[C@@H]1CCC[C@H](C)[N+:10]1(C)[H:20].Cc1ccccc1/C(=N\CCC[N:21](C)C)c1ccccc1N 10=20;20,21=21",
"CCCSCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCSCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[N:10](O)CC.c1ccc(C[S:21][H:20])cc1>>CC[N+:10](O)(CC)[H:20].c1ccc(C[S-:21])cc1 10=20;20,21=21",
"NNC(=O)c1cccc[n:10]1.OCCc1c[nH+]c(P(c2[nH]c(CCO)c[nH+]2)c2[nH]c(CCO)c[n+:21]2[H:20])[nH]1>>NNC(=O)c1cccc[n+:10]1[H:20].OCCc1c[nH+]c(P(c2[nH]c(CCO)c[nH+]2)c2[nH]c(CCO)c[n:21]2)[nH]1 10=20;20,21=21",
"Nc1nc[n:10]c([O-])c1N.S=C[N:21](c1ccccc1Cl)[H:20]>>Nc1nc[n+:10]([H:20])c([O-])c1N.S=C[N-:21]c1ccccc1Cl 10=20;20,21=21",
"CNCCC[NH:10]C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CNCCC[NH+:10](C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC(C=C(c1cccs1)c1cccs1)[N+:21]1([H:20])CCCCC1C.CCC(CC)(CC)[NH2:10]>>CC(C=C(c1cccs1)c1cccs1)[N:21]1CCCCC1C.CCC(CC)(CC)[NH2+:10][H:20] 10=20;20,21=21",
"CC[N:10]1CC(O[Si](C)(C)C)C1.Nc1cccc2nc[n+:21]([H:20])cc12>>CC[N+:10]1([H:20])CC(O[Si](C)(C)C)C1.Nc1cccc2nc[n:21]cc12 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.OCCN1CC[NH:10]CC1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.OCCN1CC[NH+:10]([H:20])CC1 10=20;20,21=21",
